US09107916B2
A. [4-fluoro-2-(1-phenylethoxy)phenyl]methanol
The title compound was prepared from 5-fluoro-2-(hydroxymethyl)phenol and (bromoethyl)benzene according to the procedure for the preparation of Example 136, part A.

reactant | 5-fluoro-2-(hydroxymethyl)phenol | FC=1C=CC(=C(C1)O)CO | C7H7FO2
reactant | (bromoethyl)benzene | BrCCC1=CC=CC=C1 | C8H9Br
product | [4-fluoro-2-(1-phenylethoxy)phenyl]methanol | FC1=CC(=C(C=C1)CO)OC(C)C1=CC=CC=C1 | C15H15FO2
